* ============================================================
* CANDIDATE behavioral LDO model  (subckt: ldo_model, ports: vin vout)
* Fitted to ground-truth by harness/fit_model.py. All linear/passive +
* controlled sources -> PSS/HB-robust (NO laplace_nd). OP-parameterized by iload
* via quadratic-in-ln(iload) interpolation through corners {20u,121u,250u}.
*   Zout = (R_a + sL_a||R_pl) || (R_b+sL_b) || (ESR+1/sCout)  Cout/ESR auto-extracted;
*          R_pl damps the L rise (inf=peak / finite=plateau); branch B (R_b->inf=off)
*          adds a 2nd resonance/roll-off for multi-pole LDOs (engaged only if it helps)
*   PSRR = i_c*Zout, i_c = G0 + sum Gi/(1+s/wi) [real bank] + one signed COMPLEX 2nd-
*          order section (b0+b1 s)/(1+s/(Q w0)+(s/w0)^2): shelf (1 real)=min-phase, 3 real
*          =non-min-phase mag, + complex section = non-min-phase / notch PHASE (V4/V3).
*          LP filter Rs are noiseless VCCS-conductances (no thermal noise from signal path)
*   Noise= DECOUPLED Norton @vout: white + 6 Lorentzian current sections fit to
*          In=Sv/|Zout| -> output PSD = In*|Zout| exactly, independent of Zout synthesis
* ============================================================
.subckt ldo_model vin vout iload=121u slew_en=0
.param ic = {min(max(iload,20u),250u)}
.param u  = {ln(ic)}
.param VREG121 = 9.011242e-01    $ nominal-corner Vreg (DC-curve table reference)
.param R_a = {min(max(exp((1.836710e-01)*u*u + (2.900097e+00)*u + (1.429951e+01)),1.774208e+01),8.376544e+01)}
.param L_a = {min(max(exp((1.396641e-01)*u*u + (2.061160e+00)*u + (-4.541689e+00)),5.936622e-06),2.787298e-05)}
.param R_pl = {min(max(exp((2.332657e-13)*u*u + (4.518403e-12)*u + (2.072327e+01)),9.950249e+08),1.005000e+09)}
.param R_b = {min(max(exp((1.392200e-16)*u*u + (4.129372e-15)*u + (2.072327e+01)),9.950249e+08),1.005000e+09)}
.param L_b = {min(max(exp((6.069877e-16)*u*u + (6.085391e-15)*u + (-2.763102e+01)),9.950249e-13),1.005000e-12)}
.param G0 = {min(max((1.955015e-04)*u*u + (4.609397e-03)*u + (2.746233e-02),4.655433e-04),2.691572e-03)}
.param G1 = {min(max((4.386092e-05)*u*u + (2.757975e-04)*u + (-2.593843e-03),-1.871177e-03),-4.361133e-04)}
.param w1 = {min(max(exp((3.844910e-02)*u*u + (7.335623e-01)*u + (1.840398e+01)),2.989163e+06),3.182342e+06)}
.param G2 = {min(max((0.000000e+00)*u*u + (0.000000e+00)*u + (0.000000e+00),0.000000e+00),0.000000e+00)}
.param w2 = {min(max(exp((1.392200e-16)*u*u + (4.129372e-15)*u + (2.072327e+01)),9.950249e+08),1.005000e+09)}
.param G3 = {min(max((0.000000e+00)*u*u + (0.000000e+00)*u + (0.000000e+00),0.000000e+00),0.000000e+00)}
.param w3 = {min(max(exp((1.392200e-16)*u*u + (4.129372e-15)*u + (2.072327e+01)),9.950249e+08),1.005000e+09)}
.param pcb0 = {min(max((0.000000e+00)*u*u + (0.000000e+00)*u + (0.000000e+00),0.000000e+00),0.000000e+00)}
.param pcb1 = {min(max((0.000000e+00)*u*u + (0.000000e+00)*u + (0.000000e+00),0.000000e+00),0.000000e+00)}
.param pcw0 = {min(max(exp((4.717895e-16)*u*u + (1.054077e-14)*u + (1.219951e+01)),1.977032e+05),1.996852e+05)}
.param pcq = {min(max(exp((0.000000e+00)*u*u + (0.000000e+00)*u + (0.000000e+00)),9.950249e-01),1.005000e+00)}
.param gnw = {min(max(exp((-5.816257e-02)*u*u + (-1.163303e+00)*u + (-1.419655e+01)),1.927479e-04),2.217763e-04)}
.param gn1 = {min(max(exp((-1.880571e-01)*u*u + (-2.987837e+00)*u + (-1.143675e+01)),3.232263e-01),1.511066e+00)}
.param gn2 = {min(max(exp((-1.836635e-01)*u*u + (-2.904064e+00)*u + (-1.244267e+01)),7.986837e-02),3.731874e-01)}
.param gn3 = {min(max(exp((-2.029024e-01)*u*u + (-3.270874e+00)*u + (-1.545121e+01)),2.194172e-02),1.027614e-01)}
.param gn4 = {min(max(exp((-1.691179e-01)*u*u + (-2.625159e+00)*u + (-1.304568e+01)),1.173413e-02),5.495036e-02)}
.param gn5 = {min(max(exp((2.098653e+00)*u*u + (3.828265e+01)*u + (1.616939e+02)),2.565785e-06),1.084506e-03)}
.param gn6 = {min(max(exp((-8.941417e-02)*u*u + (-1.873140e+00)*u + (-2.762052e+01)),1.197424e-08),1.830523e-08)}
.param sa1 = {min(max(exp((2.748960e-03)*u*u + (4.456810e-02)*u + (-1.203025e+01)),4.951663e-06),5.103066e-06)}
.param sa2 = {min(max(exp((-2.906826e-03)*u*u + (-5.649515e-02)*u + (-1.270292e+01)),3.959882e-06),4.017519e-06)}
.param vreg = {min(max((2.001640e-04)*u*u + (2.411893e-03)*u + (9.065944e-01),9.003417e-01),9.039489e-01)}
.param COUT=9.969315e-10 ESR=5.000093e-01    $ auto-extracted physical output cap / ESR
.param Cps=1p Rp1={1/(w1*Cps)} Rp2={1/(w2*Cps)} Rp3={1/(w3*Cps)}
* complex PSRR section: a1=1/(Q.w0), a2=1/w0^2 ; series R-L-C w/ Cpc fixed -> Rpc,Lpc
.param Cpc=1p pca1={1/(pcq*pcw0)} pca2={1/(pcw0*pcw0)}
.param Rpc={pca1/Cpc} Lpc={pca2/Cpc} gqb1={pcb1/pca1}
*
* ---- DC operating point: regulated Vreg (constant). vin->vout coupling is
*      handled ENTIRELY by the PSRR path below (small-signal-consistent: its DC
*      limit g_lf*R_a = the measured PSRR LF). A broadband line-reg term here
*      would create a parasitic flat PSRR floor, so it is intentionally omitted.
Breg vreg 0 V = {vreg}
*
* ---- Zout: branch A (R_a + L_a) || branch C (ESR+Cout) || branch B (opt) ----
La   vout nA  {L_a}
Rpl  vout nA  {R_pl}            $ damping across L_a (R_pl->inf = peak; finite = plateau)
* branch-A conductance: linear R_a (slew_en=0, PSS/HB) OR nonlinear DC-curve w/
* current-limit+dropout (slew_en=1). La in series stays -> resonance + di/dt slew.
Bra  vreg nA I = {(slew_en > 0.5) ? pwl(V(vreg,nA)-(vreg-VREG121),-5.378096e-03,1.000000e-06,-1.842829e-03,1.300000e-05,-7.539995e-04,2.500000e-05,-4.045254e-05,3.700000e-05,5.092585e-04,4.900000e-05,9.668075e-04,6.100000e-05,1.365338e-03,7.300000e-05,1.722977e-03,8.500000e-05,2.050758e-03,9.700000e-05,2.355925e-03,1.090000e-04,2.643507e-03,1.210000e-04,2.917148e-03,1.330000e-04,3.179578e-03,1.450000e-04,3.432898e-03,1.570000e-04,3.678763e-03,1.690000e-04,3.918498e-03,1.810000e-04,4.153182e-03,1.930000e-04,4.383700e-03,2.050000e-04,4.610792e-03,2.170000e-04,4.835074e-03,2.290000e-04,5.057072e-03,2.410000e-04,5.277231e-03,2.530000e-04,5.495931e-03,2.650000e-04,5.713503e-03,2.770000e-04,5.930232e-03,2.890000e-04,6.146364e-03,3.010000e-04,6.362119e-03,3.130000e-04,6.577685e-03,3.250000e-04,6.793233e-03,3.370000e-04,7.008912e-03,3.490000e-04,7.224856e-03,3.610000e-04,7.441186e-03,3.730000e-04,7.658011e-03,3.850000e-04,7.875431e-03,3.970000e-04,8.093535e-03,4.090000e-04,8.312410e-03,4.210000e-04,8.532134e-03,4.330000e-04,8.752781e-03,4.450000e-04,8.974423e-03,4.570000e-04,9.197128e-03,4.690000e-04,9.420964e-03,4.810000e-04,9.645997e-03,4.930000e-04,9.795019e-03,5.010000e-04,1.017425e-02,5.210000e-04,1.055743e-02,5.410000e-04,1.094489e-02,5.610000e-04,1.133700e-02,5.810000e-04,1.173417e-02,6.010000e-04,1.213688e-02,6.210000e-04,1.254568e-02,6.410000e-04,1.296123e-02,6.610000e-04,1.338430e-02,6.810000e-04,1.381588e-02,7.010000e-04,1.425713e-02,7.210000e-04,1.470956e-02,7.410000e-04,1.517508e-02,7.610000e-04,1.565613e-02,7.810000e-04,1.615595e-02,8.010000e-04,1.667883e-02,8.210000e-04,1.723058e-02,8.410000e-04,1.781910e-02,8.610000e-04,1.845523e-02,8.810000e-04,1.915375e-02,9.010000e-04,1.993449e-02,9.210000e-04,2.082287e-02,9.410000e-04,2.184899e-02,9.610000e-04,2.304378e-02,9.810000e-04,2.443204e-02,1.001000e-03,2.602513e-02,1.021000e-03,2.781822e-02,1.041000e-03,2.979401e-02,1.061000e-03,3.192926e-02,1.081000e-03,3.420031e-02,1.101000e-03,3.658581e-02,1.121000e-03,3.906770e-02,1.141000e-03,4.163115e-02,1.161000e-03,4.426415e-02,1.181000e-03,4.695699e-02,1.201000e-03,4.970182e-02,1.221000e-03,5.249224e-02,1.241000e-03,5.532303e-02,1.261000e-03,5.818989e-02,1.281000e-03,6.108924e-02,1.301000e-03,6.401809e-02,1.321000e-03,6.697391e-02,1.341000e-03,6.995458e-02,1.361000e-03,7.295826e-02,1.381000e-03,7.598340e-02,1.401000e-03,7.902863e-02,1.421000e-03,8.209277e-02,1.441000e-03,8.517481e-02,1.461000e-03,8.827384e-02,1.481000e-03,9.138906e-02,1.501000e-03,9.451977e-02,1.521000e-03,9.766535e-02,1.541000e-03,1.008252e-01,1.561000e-03,1.039990e-01,1.581000e-03,1.071860e-01,1.601000e-03,1.103861e-01,1.621000e-03,1.135988e-01,1.641000e-03,1.168237e-01,1.661000e-03,1.200606e-01,1.681000e-03,1.233093e-01,1.701000e-03,1.265695e-01,1.721000e-03,1.298409e-01,1.741000e-03,1.331234e-01,1.761000e-03,1.364168e-01,1.781000e-03,1.397209e-01,1.801000e-03,1.430357e-01,1.821000e-03,1.463609e-01,1.841000e-03,1.496964e-01,1.861000e-03,1.530421e-01,1.881000e-03,1.563981e-01,1.901000e-03,1.597640e-01,1.921000e-03,1.631400e-01,1.941000e-03,1.665259e-01,1.961000e-03,1.699216e-01,1.981000e-03,1.733273e-01,2.001000e-03,1.767427e-01,2.021000e-03,1.801678e-01,2.041000e-03,1.836028e-01,2.061000e-03,1.870475e-01,2.081000e-03,1.905020e-01,2.101000e-03,1.939662e-01,2.121000e-03,1.974402e-01,2.141000e-03,2.009241e-01,2.161000e-03,2.044178e-01,2.181000e-03,2.079215e-01,2.201000e-03,2.114351e-01,2.221000e-03,2.149588e-01,2.241000e-03,2.184926e-01,2.261000e-03,2.220367e-01,2.281000e-03,2.255911e-01,2.301000e-03,2.291560e-01,2.321000e-03,2.327316e-01,2.341000e-03,2.363180e-01,2.361000e-03,2.399154e-01,2.381000e-03,2.435240e-01,2.401000e-03,2.471440e-01,2.421000e-03,2.507758e-01,2.441000e-03,2.544195e-01,2.461000e-03,2.580756e-01,2.481000e-03,2.617443e-01,2.501000e-03,2.654261e-01,2.521000e-03,2.691214e-01,2.541000e-03,2.728307e-01,2.561000e-03,2.765546e-01,2.581000e-03,2.802935e-01,2.601000e-03,2.840482e-01,2.621000e-03,2.878194e-01,2.641000e-03,2.916077e-01,2.661000e-03,2.954142e-01,2.681000e-03,2.992397e-01,2.701000e-03,3.030851e-01,2.721000e-03,3.069516e-01,2.741000e-03,3.108404e-01,2.761000e-03,3.147526e-01,2.781000e-03,3.186897e-01,2.801000e-03,3.226531e-01,2.821000e-03,3.266443e-01,2.841000e-03,3.306650e-01,2.861000e-03,3.347171e-01,2.881000e-03,3.388022e-01,2.901000e-03,3.429225e-01,2.921000e-03,3.470800e-01,2.941000e-03,3.512770e-01,2.961000e-03,3.555159e-01,2.981000e-03,3.597991e-01,3.001000e-03,3.641293e-01,3.021000e-03,3.685093e-01,3.041000e-03,3.729423e-01,3.061000e-03,3.774313e-01,3.081000e-03,3.819799e-01,3.101000e-03,3.865917e-01,3.121000e-03,3.912707e-01,3.141000e-03,3.960214e-01,3.161000e-03,4.008482e-01,3.181000e-03,4.057563e-01,3.201000e-03,4.107513e-01,3.221000e-03,4.158392e-01,3.241000e-03,4.210266e-01,3.261000e-03,4.263209e-01,3.281000e-03,4.317302e-01,3.301000e-03,4.372633e-01,3.321000e-03,4.429303e-01,3.341000e-03,4.487420e-01,3.361000e-03,4.547109e-01,3.381000e-03,4.608506e-01,3.401000e-03,4.672765e-01,3.421000e-03,4.738153e-01,3.441000e-03,4.805777e-01,3.461000e-03,4.875855e-01,3.481000e-03,4.948629e-01,3.501000e-03,5.024369e-01,3.521000e-03,5.103375e-01,3.541000e-03,5.185977e-01,3.561000e-03,5.272539e-01,3.581000e-03,5.363454e-01,3.601000e-03,5.459139e-01,3.621000e-03,5.560030e-01,3.641000e-03,5.666568e-01,3.661000e-03,5.779183e-01,3.681000e-03,5.898269e-01,3.701000e-03,6.024166e-01,3.721000e-03,6.157128e-01,3.741000e-03,6.297306e-01,3.761000e-03,6.444740e-01,3.781000e-03,6.599350e-01,3.801000e-03,6.760959e-01,3.821000e-03,6.929309e-01,3.841000e-03,7.104089e-01,3.861000e-03,7.284969e-01,3.881000e-03,7.471614e-01,3.901000e-03,7.663707e-01,3.921000e-03,7.860954e-01,3.941000e-03,8.063093e-01,3.961000e-03,8.269886e-01,3.981000e-03,8.481119e-01,4.001000e-03,8.696602e-01,4.021000e-03,8.916157e-01,4.041000e-03,9.139616e-01,4.061000e-03,9.366820e-01,4.081000e-03,9.597619e-01,4.101000e-03,9.831866e-01,4.121000e-03,1.006942e+00,4.141000e-03,1.031014e+00,4.161000e-03,1.055241e+00,4.181000e-03,1.079911e+00,4.201000e-03,1.104860e+00,4.221000e-03,1.130073e+00,4.241000e-03,1.155537e+00,4.261000e-03,1.181240e+00,4.281000e-03,1.207171e+00,4.301000e-03,1.233317e+00,4.321000e-03,1.259666e+00,4.341000e-03,1.286210e+00,4.361000e-03,1.312936e+00,4.381000e-03,1.339834e+00,4.401000e-03,1.366896e+00,4.421000e-03,1.394110e+00,4.441000e-03,1.421470e+00,4.461000e-03,1.448965e+00,4.481000e-03,1.476587e+00,4.501000e-03,1.504329e+00,4.521000e-03,1.532183e+00,4.541000e-03,1.560141e+00,4.561000e-03,1.588198e+00,4.581000e-03,1.616346e+00,4.601000e-03,1.644578e+00,4.621000e-03,1.672890e+00,4.641000e-03,1.701275e+00,4.661000e-03,1.729727e+00,4.681000e-03,1.758243e+00,4.701000e-03,1.786816e+00,4.721000e-03,1.815442e+00,4.741000e-03,1.844117e+00,4.761000e-03,1.872836e+00,4.781000e-03,1.901596e+00,4.801000e-03,1.930392e+00,4.821000e-03,1.959221e+00,4.841000e-03,1.988080e+00,4.861000e-03,2.016965e+00,4.881000e-03,2.045874e+00,4.901000e-03,2.074802e+00,4.921000e-03,2.103748e+00,4.941000e-03,2.132709e+00,4.961000e-03,2.161682e+00,4.981000e-03,2.190665e+00,5.001000e-03,2.219655e+00,5.021000e-03,2.248651e+00,5.041000e-03,2.277650e+00,5.061000e-03,2.306650e+00,5.081000e-03,2.335650e+00,5.101000e-03,2.364648e+00,5.121000e-03,2.393642e+00,5.141000e-03,2.422630e+00,5.161000e-03,2.451611e+00,5.181000e-03,2.480584e+00,5.201000e-03,2.509547e+00,5.221000e-03,2.538499e+00,5.241000e-03,2.567438e+00,5.261000e-03,2.596364e+00,5.281000e-03,2.625276e+00,5.301000e-03,2.654171e+00,5.321000e-03,2.683050e+00,5.341000e-03,2.711912e+00,5.361000e-03,2.740755e+00,5.381000e-03,2.769578e+00,5.401000e-03,2.798381e+00,5.421000e-03,2.827163e+00,5.441000e-03,2.855924e+00,5.461000e-03,2.884662e+00,5.481000e-03,2.913377e+00,5.501000e-03,2.942068e+00,5.521000e-03,2.970735e+00,5.541000e-03,2.999377e+00,5.561000e-03,3.027994e+00,5.581000e-03,3.056585e+00,5.601000e-03,3.085149e+00,5.621000e-03,3.113687e+00,5.641000e-03,3.142197e+00,5.661000e-03,3.170680e+00,5.681000e-03,3.199134e+00,5.701000e-03,3.227561e+00,5.721000e-03,3.255958e+00,5.741000e-03,3.284326e+00,5.761000e-03,3.312665e+00,5.781000e-03,3.340974e+00,5.801000e-03,3.369253e+00,5.821000e-03,3.397502e+00,5.841000e-03,3.425721e+00,5.861000e-03,3.453908e+00,5.881000e-03,3.482065e+00,5.901000e-03,3.510191e+00,5.921000e-03,3.538285e+00,5.941000e-03,3.566348e+00,5.961000e-03,3.594380e+00,5.981000e-03) : V(vreg,nA)/R_a}
Cout vout nC  {COUT}
Resr nC  vreg {ESR}
* ---- optional branch B: 2nd parallel R-L for multi-pole Zout (R_b->inf = off) ----
Lb   vout nbb {L_b}
Rbb  nbb  vreg {R_b}
*
* ---- intrinsic output noise: DECOUPLED Norton current @vout (white + 6 Lorentzians).
* Each section = fixed R||C thermal noise (sets corner) x VCCS gm (sets amplitude),
* injected at vout so output PSD = In(f)*|Zout(f)|. Decoupled from the Zout branches
* above -> immune to branch-B re-shaping; fit to In=Sv/|Zout| across load corners.
Rnw  nw 0 1.000000e+06
Gnw  0 vout nw 0 {gnw}      $ white floor
Rn1  nk1 0 1.000000e+06
Cn1  nk1 0 8.588995e-09        $ corner 18.53 Hz
Gn1  0 vout nk1 0 {gn1}
Rn2  nk2 0 1.000000e+06
Cn2  nk2 0 6.072694e-10        $ corner 262.1 Hz
Gn2  0 vout nk2 0 {gn2}
Rn3  nk3 0 1.000000e+06
Cn3  nk3 0 4.191329e-11        $ corner 3797 Hz
Gn3  0 vout nk3 0 {gn3}
Rn4  nk4 0 1.000000e+06
Cn4  nk4 0 4.053907e-13        $ corner 3.926e+05 Hz
Gn4  0 vout nk4 0 {gn4}
Rn5  nk5 0 1.000000e+06
Cn5  nk5 0 2.027003e-13        $ corner 7.852e+05 Hz
Gn5  0 vout nk5 0 {gn5}
Rn6  nk6 0 1.000000e+06
Cn6  nk6 0 2.090802e-15        $ corner 7.612e+07 Hz
Gn6  0 vout nk6 0 {gn6}
*
* ---- PSRR path: i_c = G0 + sum_i Gi*LP_i(vin-1.05), injected into vout (x Zout).
*      Bank of signed first-order real-pole sections (+ one complex section below).
*      The LP filter resistors are realized as NOISELESS VCCS-conductances (Grp*),
*      NOT physical R: the PSRR coupling is a signal-transfer path, so its filter
*      elements must contribute NO thermal noise (else they corrupt the decoupled
*      Norton noise block). This matches the Verilog-A mirror (which is already
*      noiseless) and is I-V identical to a resistor in .op/.dc/.ac/.tran. ----
Vrf  vrf 0 DC 1.05               $ nominal-vin reference (model fit at vin=1.05)
Gd   0   vout vin vrf {G0}         $ feedthrough  G0*(vin-1.05)
Grp1 vin np1 vin np1 {1/Rp1}   $ noiseless conductance (= 1/Rp1)
Cp1  np1 vrf {Cps}             $ np1 = LP1(vin), DC-referenced to 1.05
Gs1  0   vout np1 vrf {G1}         $ G1*(LP1(vin)-1.05)
Grp2 vin np2 vin np2 {1/Rp2}
Cp2  np2 vrf {Cps}
Gs2  0   vout np2 vrf {G2}         $ G2*(LP2(vin)-1.05)  (0 if min-phase)
Grp3 vin np3 vin np3 {1/Rp3}
Cp3  np3 vrf {Cps}
Gs3  0   vout np3 vrf {G3}         $ G3*(LP3(vin)-1.05)  (0 if min-phase)
* ---- PSRR complex-conjugate 2nd-order section: carries non-min-phase / notch
*      PHASE that the real shelf cannot. Series Rpc-Lpc-Cpc lowpass state x=V(ncs2,vrf);
*      Gqb0 reads V_C=x, Gqb1 reads V_R=a1*dx/dt -> i_c += (pcb0+pcb1 s)/(1+a1 s+a2 s^2).
*      Inert when pcb0=pcb1=0 (min-phase variants). Rpc is a NOISELESS VCCS-conductance
*      (Grpc); Lpc/Cpc are noiseless -> the whole section adds no thermal noise. No laplace.
Grpc vin  ncs1 vin ncs1 {1/Rpc}    $ noiseless conductance (= 1/Rpc)
Lpc  ncs1 ncs2 {Lpc}
Cpc  ncs2 vrf  {Cpc}
Gqb0 0 vout ncs2 vrf {pcb0}        $ inject b0*x
Gqb1 0 vout vin  ncs1 {gqb1}       $ inject b1*dx/dt = (b1/a1)*V_R
* ---- intrinsic discrete spurs: deterministic current tones @vout ----
* (DC=0 AC=0 -> inert in .op/.dc/.ac/.noise; vout tone = I_k*|Zout(f_k)|).
* Node order '0 vout' injects current INTO vout (matches the noise/PSRR
* sign convention) so the reproduced tone phase matches the GT.
Isp1 0 vout DC 0 AC 0 SIN(0 {sa1} 9.999844e+05 0 0 179.6512)
Isp2 0 vout DC 0 AC 0 SIN(0 {sa2} 3.703067e+06 0 0 179.5605)
.ends ldo_model
* ============================================================
* SPUR FUNDAMENTALS (add to PSS/HB funds with the ldo_v6_spur2 model):
*   f_k [Hz] = 9.999844e+05 3.703067e+06
*   incommensurate: declare 2 separate HB funds
* External supply/bias spurs are NOT emitted: inject the aggressor tone at
* the vin port in the system TB; the model's PSRR path carries it to vout.
* ============================================================
